US05597826
7-Hexanamido-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was prepared following the procedure of example 16 from 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.182 g, 0.755 mmol) and triethylamine (0.201 mL, 1.51 mmol) and hexanoyl chloride (0.211 mL, 1.51 mmol)in acetonitrile (10 mL) with an overnight reflux. The product was purified by recrystallization from ethyl acetate/hexane to yield 0.097g (37%) of the title compound: mp 144°-146° C. Analysis calculated for C21H29N3O: C, 74.30; H, 8.61; N, 12.38. Found: C, 73.91; H, 8.52; N, 12.22.

reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.755 mmol, 0.182 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | triethylamine | 1.51 mmol, 0.201 mL | C(C)N(CC)CC | C6H15N
reactant | hexanoyl chloride | 1.51 mmol, 0.211 mL | C(CCCCC)(=O)Cl | C6H11ClO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-Hexanamido-1-(4-methyl-1-piperazinyl)-naphthalene | 0.097g, 37% | C(CCCCC)(=O)NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C21H29N3O
